US07622486B2
Synthesis of (2,6-dichloro-pyridin-4-yl)-(3-methylsulfanyl-phenyl)-amine
To 2,6-dichloro-4-iodopyridine (1.3715 g, 5 mmol) dissolved in toluene (30 mL) were added 3-methylthioaniline (0.73 mL, 6 mmol), tris(dibenzylidene-acetone)dipalladium (90.6 mg, 0.1 mmol), 1,3-bis(diphenylphosphino)propane (80.0 mg, 0.2 mmol), and sodium-tert-butoxide (672.1 mg, 7 mmol). The resulting mixture was allowed to stir at reflux for 12-18 hours. The sample was diluted in dichloromethane and filtered through Celite™. The Celite™ was washed with dichloromethane and the filtrate was washed two times with water and one time with brine. The organic phase was dried over potassium carbonate and concentrated by rotary evaporation. The resulting sample (9) was dried for 12-18 hours under vacuum. The sample was used without purification.

reactant | 2,6-dichloro-4-iodopyridine | 5 mmol, 1.3715 g | ClC1=NC(=CC(=C1)I)Cl | C5H2Cl2IN
reactant | 3-methylthioaniline | 6 mmol, 0.73 mL | CSC=1C=C(N)C=CC1 | C7H9NS
reactant | 1,3-bis(diphenylphosphino)propane | 0.2 mmol, 80.0 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | sodium-tert-butoxide | 7 mmol, 672.1 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tris(dibenzylidene-acetone)dipalladium | 0.1 mmol, 90.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2,6-dichloro-pyridin-4-yl)-(3-methylsulfanyl-phenyl)-amine | ClC1=NC(=CC(=C1)NC1=CC(=CC=C1)SC)Cl | C12H10Cl2N2S
